2131-12-24 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered mental status
   24 Hour Events:
   - A-line placed
   - Weaned FiO2
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Amiodarone
   Rash;
   Quinine
   Nausea/Vomiting
   Codeine
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Lisinopril
   Citalopram
   Diarrhea;
   Ciprofloxacin
   Rash; heavy bre
   Hydralazine
   Hives;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2131-12-24**] 06:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-12-24**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 63 (51 - 65) bpm
   BP: 97/39(56) {81/36(49) - 146/52(83)} mmHg
   RR: 18 (10 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,282 mL
                                                                    747 mL
   PO:
             TF:
   IVF:
                                                                     22 mL
                                                                    747 mL
   Blood products:
   Total out:
                                                                     25 mL
                                                                     23 mL
   Urine:
                                                                     25 mL
                                                                     23 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,257 mL
                                                                    724 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (400 - 500) mL
   RR (Set): 19
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 33 cmH2O
   Plateau: 18 cmH2O
   Compliance: 63.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.26/49/101/21/-5
   Ve: 8.4 L/min
   PaO2 / FiO2: 202
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes
   : Rare, Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Not assessed,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   281 K/uL
   7.5 g/dL
   101 mg/dL
   6.3 mg/dL
   21 mEq/L
   4.7 mEq/L
   49 mg/dL
   98 mEq/L
   132 mEq/L
   23.4 %
   10.6 K/uL
        [image002.jpg]
                            [**2131-12-23**]  09:22 PM
                            [**2131-12-23**]  09:24 PM
                            [**2131-12-24**]  01:33 AM
                            [**2131-12-24**]  03:15 AM
                            [**2131-12-24**]  04:44 AM
   WBC
   10.6
   Hct
   23.4
   Plt
   281
   Cr
   6.3
   6.3
   TropT
   0.03
   0.03
   TCO2
   28
   24
   23
   Glucose
   119
   101
   Other labs: PT / PTT / INR:28.5/150.0/2.9, CK / CKMB /
   Troponin-T:21//0.03, Lactic Acid:0.9 mmol/L, Ca++:7.3 mg/dL, Mg++:2.2
   mg/dL, PO4:6.9 mg/dL
   Assessment and Plan
   A [**Age over 90 382**] year-old female with past medical history of chronic obstructive
   pulmonary disease, Wegener's granulomatosis, recent admission
   [**Date range (3) 7130**] for acute on chronic renal failure with decision to
   initiate hemodialysis at that time and hospital stay complicated by
   left lower lobe Moraxella pneumonia presenting with altered mental
   status.
   # Altered mental status: Likely due to infection with bandemia,
   hypothermia, hypotension - also with component of medication effect and
   potentially hypoxemia/hypercapnia at home.  Most likely source of
   infection is pulmonary versus line.  Patient with recent increase in
   oxygen requirement and sputum production at home.  Chest x-ray with
   persistent left lower lobe infiltrate which may represent new process
   versus incomplete resolution of prior Moraxella pneumonia.  Recent
   admission for acute on chronic renal failure with tunnelled catheter
   placement at that time.  Received influenza vaccination [**10/2131**],
   pneumovax 10/[**2118**].  Patient took trazodone two days prior to admission,
   which has caused confusion in the past - appears to be hepatically
   cleared to active metabolite that is excreted in urine; patient
   anuric.  CT head without acute process.
   - Vancomycin, zosyn to treat pulmonary and potential line infection
   - Sputum, blood (peripheral and catheter), urine cultures pending; no
   diarrhea to suggest C. difficile
   - Wean sedation as possible and hold other sedating medications
   - TSH, B12, RPR - normal/non-reactive
   # Respiratory failure: Intubated in the ED for apnea of unclear
   etiology and for airway protection.  Copious secretions.  History of
   COPD.  Chest x-ray with persistent left lower lobe infiltrate with
   potential new pneumonia.
   - Patient comfortable on AC and will continue
   - Wean FiO2 as possible
   - Vancomycin and zosyn for pneumonia
   - Combivent inhalers Q4H with albuterol Q2H:PRN
   # Hypotension: Likely due to medication effect.  Sepsis less likely.
   - Wean sedation
   - Levophed for systolic < 100
   - Hold metoprolol
   # Bandemia/left shift: Most likely sources are pulmonary versus line
   infection as above.  Urinalysis negative.  No diarrhea to suggest C.
   difficile or other gastrointestinal infection.
   - Vancomycin, zosyn for hospital-acquired pneumonia
   - Sputum, blood, urine cultures pending
   # Chronic renal failure: Secondary to ANCA vasculitis.  Decision made
   to initiate HD last admission.
   - Renal aware
   - HD likely today
   - Monitor potassium; no kayexalate for K < 6.0 per renal
   - Continue epogen, nephrocaps, calcitriol, calcium
   # Anemia: Baseline mid-20s.  Drop from admission likely dilutional.  No
   signs or symptoms of active bleeding.
   - Continue epogen
   - Transfuse for hematocrit < 21
   - Guaiac all stools
   - Repeat in afternoon
   # Bradycardia: Improved - now heart rate in 60s-70s.  Patient on
   metoprolol as an outpatient.  Likely some component of sinus node
   dysfunction.  No signs or symptoms of ischemia but will rule out.
   - Two sets of cardiac enzymes negative
   - Hold metoprolol
   # Atrial fibrillation: Currently in sinus bradycardia; on coumadin.
   - Hold metoprolol for now
   - Continue heparin gtt; holding coumadin for now
   # History of transient ischemic attack: Notes state the patient had a
   TIA which occurred when coumadin held during a previous admission.
   - Continue heparin gtt; holding coumadin for now
   # Hypothyroidism: No acute issues.
   - Check TSH as above
   - Continue levothyroxine
   ICU Care
   Nutrition:
   Comments: Will start tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2131-12-23**] 08:00 PM -> will attempt to place PICC line
   tomorrow to remove right femoral line
   Tunneled (Hickman) Line - [**2131-12-23**] 08:09 PM
   Arterial Line - [**2131-12-23**] 08:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-12-25 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2131-12-24**] 09:28 AM
 BLOOD CULTURED - At [**2131-12-24**] 03:54 PM
   hickman line
 BLOOD CULTURED - At [**2131-12-24**] 03:54 PM
   Aline
   -  Some hypotension with HD, was on levophed and then briefly on
   vasopressin to tolerate this; stopped HD and vasopressin turned off
   -  Low-grade fever overnight (100.5, 100.6); cultures sent
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Amiodarone
   Rash;
   Quinine
   Nausea/Vomiting
   Codeine
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Lisinopril
   Citalopram
   Diarrhea;
   Ciprofloxacin
   Rash; heavy bre
   Hydralazine
   Hives;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2131-12-25**] 07:45 AM
   Infusions:
   Fentanyl - 35 mcg/hour
   Norepinephrine - 0.01 mcg/Kg/min
   Heparin Sodium - 350 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-12-25**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.8
   HR: 70 (60 - 82) bpm
   BP: 103/46(62) {92/34(49) - 162/55(90)} mmHg
   RR: 26 (10 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,824 mL
                                                                    415 mL
   PO:
             TF:
   IVF:
                                                                  1,824 mL
                                                                    385 mL
   Blood products:
   Total out:
                                                                  1,933 mL
                                                                     15 mL
   Urine:
                                                                     33 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -109 mL
                                                                    400 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 387 (387 - 402) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 18 cmH2O
   Plateau: 17 cmH2O
   Compliance: 58.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.38/42/99.[**Numeric Identifier 128**]/24/0
   Ve: 10.7 L/min
   PaO2 / FiO2: 248
   Physical Examination
   Gen:  Intubated, alert, attempting to mouth words
   HEENT:  PERRL, MMM
   CV:  RRR, no mrg appreciated
   Resp:  Clear anteriorly, no w/r/r.
   Abd:  Obese, soft, NT.
   Ext:  Moves all 4 extremities spontaneously, no c/c/e.
   Labs / Radiology
   249 K/uL
   7.2 g/dL
   133 mg/dL
   4.5 mg/dL
   24 mEq/L
   3.9 mEq/L
   29 mg/dL
   103 mEq/L
   141 mEq/L
   22.9 %
   6.6 K/uL
        [image002.jpg]
                            [**2131-12-23**]  09:24 PM
                            [**2131-12-24**]  01:33 AM
                            [**2131-12-24**]  03:15 AM
                            [**2131-12-24**]  04:44 AM
                            [**2131-12-24**]  09:16 AM
                            [**2131-12-24**]  12:34 PM
                            [**2131-12-24**]  05:09 PM
                            [**2131-12-24**]  10:42 PM
                            [**2131-12-25**]  04:05 AM
                            [**2131-12-25**]  04:13 AM
   WBC
   10.6
   7.9
   6.6
   Hct
   23.4
   21.9
   25.0
   22.9
   Plt
   [**Telephone/Fax (3) 7146**]
   Cr
   6.3
   4.1
   4.5
   TropT
   0.03
   TCO2
   28
   24
   23
   21
   26
   Glucose
   101
   129
   133
   Other labs: PT / PTT / INR:40.3/150.0/4.4, CK / CKMB /
   Troponin-T:21//0.03, Lactic Acid:0.9 mmol/L, Ca++:7.5 mg/dL, Mg++:1.9
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   [**Age over 90 382**] year-old female with past medical history of COPD, Wegener's
   granulomatosis, recent admission [**Date range (1) 7130**] for acute on chronic
   renal failure with initiation of HD at that time and hospital stay
   complicated by left lower lobe Moraxella pneumonia readmitted with
   altered mental status.
   # Altered mental status:  Much improved today and patient is alert and
   following commands.  Likely initially due to infection given
   presentation with bandemia, hypothermia.  Most likely source of
   infection is pulmonary given recent moraxella pneumonia on
   zosyn/vanco.  Chest x-ray on presentation with persistent left lower
   lobe infiltrate which may represent new process versus incomplete
   resolution of prior Moraxella pneumonia.  Received influenza
   vaccination [**10/2131**], pneumovax 10/[**2118**].  CT head on presentation
   without acute process.
   - continue vanco/zosyn for HAP given recent admission and probable
   pulmonary source
   - f/u with micro lab re: ID on GNR in sputum
   - f/u outstanding blood and sputum cultures
   - Continue to limit sedation as able while intubated
   - TSH, B12, RPR - normal/non-reactive
   # Respiratory failure:  Intubated in the ED for apnea of unclear
   etiology and for airway protection.  Copious secretions on presentation
   which have since lessened.  Underwent HD this morning with 3L off.
   Given mental status has markedly improved, goal to extubate today vs.
   tomorrow.
   - Vancomycin and zosyn for pneumonia
   - Combivent inhalers Q4H with albuterol Q2H:PRN
   # Hypotension:  Remains on levophed, but titrating off.  Had increased
   pressor requirements yesterday in the setting of 2L off at HD
   transiently requiring addition of vasopressin to levophed.  Levophed
   turned up during HD session today, but now able to tolerate downward
   titration.  Given concern for infection as well, may have element of
   distributive hypotension although this seems to be less of a
   contributor.
   - Levophed for systolic < 100 given wide pulse pressures
   - Hold metoprolol
   # Bandemia/left shift: Most likely source is pulmonary as above;
   blood/urine culture data negative to date.   No diarrhea to suggest C.
   difficile or other gastrointestinal infection.
   - Vancomycin, zosyn for hospital-acquired pneumonia
   - f/u outstanding sputum, blood  cultures pending
   - awaiting GNR identification in sputum
   # Chronic renal failure:  Secondary to ANCA vasculitis.  Decision made
   to initiate HD last admission.
   - continue HD
   - d/w renal goal for less negative given increased pressor requirements
   during HD sessions
   - Monitor potassium; no kayexalate for K < 6.0 per renal
   - Continue epogen, nephrocaps, calcitriol, calcium
   # Anemia: Baseline mid-20s as of most recent [**12-10**] admission; prior to
   that was in the low 30s.  No signs or symptoms of active bleeding and
   has been guaiac negative thus far.
   - Continue epogen
   - Transfuse for hematocrit < 21
   - Guaiac all stools
   # Bradycardia:  Currently normal rate.  Patient on metoprolol as an
   outpatient.
   - Hold metoprolol also in setting of hypotension
   # Atrial fibrillation:  Currently in sinus rhythm on coumadin as an
   outpatient; has been on heparin gtt here d/t h/o TIA previously while
   coumadin was held.  INR currently supratherapeutic, however so will
   hold heparin gtt.
   - Hold metoprolol for now
   - Hold heparin gtt given INR supratherapeutic
   - continue to follow coags
   # History of transient ischemic attack: Notes state the patient had a
   TIA which occurred when coumadin held during a previous admission.
   - INR supratherapeutic, but will need heparin gtt if drifts <2
   # Hypothyroidism: No acute issues.  TSH 1.8 on this admission.
   - Continue levothyroxine
   ICU Care
   Nutrition: f/u nutrition recs for TFs while intubated.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-12-23**] 08:00 PM (femoral)
   Tunneled (Hickman) Line - [**2131-12-23**] 08:09 PM
   Arterial Line - [**2131-12-23**] 08:30 PM
   Prophylaxis:
   DVT:  INR supratherapeutic.
   Stress ulcer:   Continue PPI.
   VAP:  Mouth care with chlorhexdine, HOB elevation.
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU given intubated and remains on pressors.
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with Dr.
   [**First Name (STitle) 6908**]
s note, and would emphasize and add the following points:
   [**Age over 90 382**] year old woman with PMH COPD, Wegener's  (no current
   immunosuppresion) , ESRD, TIA, and recent Moroxella pneumonia, presents
   with altered mental status and respiratory failure due to probable
   pneumonia. This was in the setting of bandemia, hypothermia, and gram
   negative rods growing on sputum culture.
   Altered mental status most likely [**2-3**] infection but could also be
   contribution from recent accidental overdose of trazodone. Low level
   pressor requirement on sedation. ESRD on HD. Currently on vanc/zosyn.
   Acute respiratory failure appears to be improving. Will likely be able
   to extubate in AM.
   I updated patient
s daughter Sister [**Name (NI) **]. Rest of the plan as
   detailed above. Patient is critically ill. 30 minutes of critical care
   time spent with patient.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1140**] [**Last Name (NamePattern1) 1135**], MD
   on:[**2131-12-25**] 06:15 PM ------

2131-12-25 09:37:00 Physician Attending Progress Note
Chief Complaint: Altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 382**] year woman with PMH Wegener's , ESRD presented with altered mental
   status. GNR in sputum and persistent LLL infiltrate. Please see
   previous notes for details.
   24 Hour Events:
   Low grade Temps
   Needed pressors inthe setting of HD yesterday
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Amiodarone
   Rash;
   Quinine
   Nausea/Vomiting
   Codeine
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Lisinopril
   Citalopram
   Diarrhea;
   Ciprofloxacin
   Rash; heavy bre
   Hydralazine
   Hives;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2131-12-25**] 07:45 AM
   Infusions:
   Fentanyl - 35 mcg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Heparin Sodium - 350 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-12-25**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.8
   HR: 72 (60 - 82) bpm
   BP: 106/45(63) {92/34(49) - 162/55(90)} mmHg
   RR: 21 (10 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,824 mL
                                                                    441 mL
   PO:
             TF:
   IVF:
                                                                  1,824 mL
                                                                    411 mL
   Blood products:
   Total out:
                                                                  1,933 mL
                                                                     15 mL
   Urine:
                                                                     33 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -109 mL
                                                                    426 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 483 (387 - 483) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 18 cmH2O
   Plateau: 17 cmH2O
   Compliance: 58.1 cmH2O/mL
   SpO2: 99%
   ABG: 7.38/42/99.[**Numeric Identifier 128**]/24/0
   Ve: 11.3 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: Anxious
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.2 g/dL
   249 K/uL
   133 mg/dL
   4.5 mg/dL
   24 mEq/L
   3.9 mEq/L
   29 mg/dL
   103 mEq/L
   141 mEq/L
   22.9 %
   6.6 K/uL
        [image002.jpg]
                            [**2131-12-23**]  09:24 PM
                            [**2131-12-24**]  01:33 AM
                            [**2131-12-24**]  03:15 AM
                            [**2131-12-24**]  04:44 AM
                            [**2131-12-24**]  09:16 AM
                            [**2131-12-24**]  12:34 PM
                            [**2131-12-24**]  05:09 PM
                            [**2131-12-24**]  10:42 PM
                            [**2131-12-25**]  04:05 AM
                            [**2131-12-25**]  04:13 AM
   WBC
   10.6
   7.9
   6.6
   Hct
   23.4
   21.9
   25.0
   22.9
   Plt
   [**Telephone/Fax (3) 7146**]
   Cr
   6.3
   4.1
   4.5
   TropT
   0.03
   TCO2
   28
   24
   23
   21
   26
   Glucose
   101
   129
   133
   Other labs: PT / PTT / INR:40.3/150.0/4.4, CK / CKMB /
   Troponin-T:21//0.03, Lactic Acid:0.9 mmol/L, Ca++:7.5 mg/dL, Mg++:1.9
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   [**Age over 90 382**] year old woman with PMH COPD and recent admit for PNA who
   re-presents with altered mental status and respiratory failure in the
   setting of probable
   new pneumonia. GNR's in her sputum, continues on Vanc/Zosyn while
   awaiting finalization of culutres. Plan to extubate today. Hypotension
   possibly
   related to decreased SVR in the setting of infection but has been
   running sig. negative on HD. Will touch base with renal re: less
   agressive fluid removal.
   DC heparin today. Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: On hold for potential extubation.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2131-12-23**] 08:00 PM
   Tunneled (Hickman) Line - [**2131-12-23**] 08:09 PM
   Arterial Line - [**2131-12-23**] 08:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2131-12-26 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ANGIOGRAPHY - At [**2131-12-25**] 11:42 AM
   picc placed
 PICC LINE - START [**2131-12-25**] 01:43 PM
   -Extubated successfully last pm
   -BP has remained stable off levophed
   -heparin gtt d/c'd given supratherapeutic INR
   History obtained from Patient
   Allergies:
   History obtained from PatientBactrim (Oral)
   (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Amiodarone
   Rash;
   Quinine
   Nausea/Vomiting
   Codeine
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Lisinopril
   Citalopram
   Diarrhea;
   Ciprofloxacin
   Rash; heavy bre
   Hydralazine
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2131-12-26**] 12:54 AM
   Piperacillin/Tazobactam (Zosyn) - [**2131-12-26**] 12:54 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-12-26**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 70 (57 - 85) bpm
   BP: 151/47(83) {92/38(19) - 155/53(84)} mmHg
   RR: 19 (9 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    792 mL
                                                                    322 mL
   PO:
             TF:
   IVF:
                                                                    762 mL
                                                                    322 mL
   Blood products:
   Total out:
                                                                  3,015 mL
                                                                     20 mL
   Urine:
                                                                     15 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,223 mL
                                                                    302 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 483 (483 - 483) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: 7.38/36/128/23/-2
   Ve: 7.7 L/min
   PaO2 / FiO2: 320
   Physical Examination
   Gen:  Alert, oriented to person and place at [**Hospital1 54**], but thinks in
   [**Location (un) 5865**].
   HEENT:  PERRL, MMM
   CV:  RRR, no mrg appreciated
   Resp:  Clear anteriorly, decreased BS bibasilar with rales 1/3 up on
   left.
   Abd:  Obese, soft, NT.
   Ext:  Groin line in place without e/o hematoma, erythema.  No c/c/e.
   Labs / Radiology
   273 K/uL
   7.3 g/dL
   125 mg/dL
   5.9 mg/dL
   23 mEq/L
   4.5 mEq/L
   37 mg/dL
   102 mEq/L
   139 mEq/L
   22.6 %
   7.3 K/uL
        [image002.jpg]
                            [**2131-12-24**]  03:15 AM
                            [**2131-12-24**]  04:44 AM
                            [**2131-12-24**]  09:16 AM
                            [**2131-12-24**]  12:34 PM
                            [**2131-12-24**]  05:09 PM
                            [**2131-12-24**]  10:42 PM
                            [**2131-12-25**]  04:05 AM
                            [**2131-12-25**]  04:13 AM
                            [**2131-12-25**]  06:40 PM
                            [**2131-12-26**]  04:04 AM
   WBC
   10.6
   7.9
   6.6
   7.3
   Hct
   23.4
   21.9
   25.0
   22.9
   22.6
   Plt
   [**Telephone/Fax (3) 7156**]73
   Cr
   6.3
   4.1
   4.5
   5.9
   TropT
   0.03
   TCO2
   23
   21
   26
   22
   Glucose
   101
   129
   133
   125
   Other labs: PT / PTT / INR:47.3/65.1/5.3, CK / CKMB /
   Troponin-T:21//0.03, Lactic Acid:0.9 mmol/L, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:5.0 mg/dL
   ASSESSMENT/PLAN:
   [**Age over 90 382**] year-old female with past medical history of COPD, Wegener's
   granulomatosis, recent admission [**Date range (1) 7130**] for acute on chronic
   renal failure with initiation of HD at that time and hospital stay
   complicated by left lower lobe Moraxella pneumonia readmitted with
   altered mental status.
   # Respiratory failure:  Intubated in the ED for apnea of unclear
   etiology and for airway protection.  Copious secretions on presentation
   which have since significantly lessened.  Successfully extubated on
   [**12-25**] and maintaining O2 sats on O2 via NC without e/o respiratory
   distress.  Sputum culture from [**2131-12-24**] is again growing Moraxella, no
   other new organisms.  Still with same infiltrate on chest imaging so ?
   inadequately treated previously with cefpodoxime (although should be
   sensitive and responsive to this) vs. consideration of colonization or
   endobronchial lesion with postobstructive pneumonia.  Not bronched
   while intubated to eval this further.
   -d/c vanco/zosyn as culture showing moraxella only
   -starting ceftriaxone as moraxella should be sensitive
   -will need repeat imaging as outpatient to assess for resolution of
   infiltrate as if persists despite appropriate rx, may need to pursue
   further eval with bronch to r/o endobronchial lesion
   # Altered mental status:  Much improved following extubation and
   intermittently confused although alert and oriented to person, place,
   time as [**Month (only) 102**] (not year).  Likely delirium in the setting of
   infection, sedating meds, ICU stay especially in setting of advanced
   age.   Was worse on presentation also after having taken unclear amount
   of trazadone.  CT head on presentation without acute process.  TSH,
   B12, RPR - normal/non-reactive
   - starting ctx for moraxella
   - limit sedating meds
   - frequent reorientation
   # Hypotension:  Currently normotensive off pressors.  Was worse in the
   setting of HD, however tolerated HD better yesterday and has been off
   levophed.   Given concern for infection as well, may have element of
   distributive hypotension although this seems to be less of a
   contributor.
   - off levophed
   - Hold metoprolol for now, but can restart  pending stability in BPs
   # Coagulopathy:  INR continues to climb despite having been off
   coumadin and heparin stopped yesterday.  Patient has been NPO since
   admission and suspect at least in part due to nutritional deficiency,
   but also in the setting of antibiotic effect.  No signs of active
   bleeding.  Does have h/o TIA in setting of a.fib and subtherapeutic INR
   so would be less inclined to reverse at this time.
   - continue off heparin and coumadin
   - continue to monitor coags and consider vit K if continues to rise
   # Chronic renal failure:  Secondary to ANCA vasculitis.  Decision made
   to initiate HD last admission.
   - continue HD; will not get on [**12-27**], but will then resume on Friday
   - Monitor potassium; no kayexalate for K < 6.0 per renal
   - Continue epogen, nephrocaps, calcitriol, calcium
   # Anemia: Baseline mid-20s as of most recent [**12-10**] admission; prior to
   that was in the low 30s.  No signs or symptoms of active bleeding and
   has been guaiac negative thus far.  Has been slightly lower than most
   recent baseline in the low 20s, but stable there x >24h.
   - Continue epogen
   - Transfuse for hematocrit < 21
   - Guaiac all stools
   - pm hct
   # Bradycardia:  Resolved and currently normal rate.  Patient on
   metoprolol as an outpatient.
   - Hold metoprolol also in setting of recent hypotension although can
   likely restart pending stability in BP
   # Atrial fibrillation:  Currently in sinus rhythm on coumadin as an
   outpatient; has been on heparin gtt here d/t h/o TIA previously while
   coumadin was held.  INR currently supratherapeutic, however so holding
   heparin gtt.
   - Hold metoprolol for now as above
   - Hold heparin gtt given INR supratherapeutic
   - continue to follow coags
   # History of transient ischemic attack: Notes state the patient had a
   TIA which occurred when coumadin held during a previous admission.
   - INR supratherapeutic, but will need heparin gtt if drifts <2
   # Hypothyroidism: No acute issues.  TSH 1.8 on this admission.
   - Continue levothyroxine
   ICU Care
   Nutrition: f/u nutrition recs for TFs while intubated.
   Glycemic Control:
   Lines:  PICC placed [**12-25**].
   Multi Lumen - [**2131-12-23**] 08:00 PM (femoral)
 will d/c today prior to tx
   to floor.
   Tunneled (Hickman) Line - [**2131-12-23**] 08:09 PM
   Arterial Line - [**2131-12-23**] 08:30 PM
   Prophylaxis:
   DVT:  INR supratherapeutic.
   Stress ulcer:   Continue PPI as she is on as outpatient as well.
   Code status: Full code
   Disposition:  Probable call out to floor this afternoon if BP and
   respiratory status remain stable.

2131-12-26 10:04:00 Physician Attending Progress Note
Chief Complaint: Hypotension, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 382**] year old woman who presents with hypoxemic respiratory failure in
   the setting of pneumonia. Please see previous notes for details.
   24 Hour Events:
 ANGIOGRAPHY - At [**2131-12-25**] 11:42 AM
   picc placed
 PICC LINE - START [**2131-12-25**] 01:43 PM
   Extubated last night
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Amiodarone
   Rash;
   Quinine
   Nausea/Vomiting
   Codeine
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Lisinopril
   Citalopram
   Diarrhea;
   Ciprofloxacin
   Rash; heavy bre
   Hydralazine
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2131-12-26**] 12:54 AM
   Piperacillin/Tazobactam (Zosyn) - [**2131-12-26**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-12-26**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 67 (57 - 85) bpm
   BP: 149/43(76) {92/38(19) - 155/53(84)} mmHg
   RR: 24 (9 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    792 mL
                                                                    444 mL
   PO:
             TF:
   IVF:
                                                                    762 mL
                                                                    444 mL
   Blood products:
   Total out:
                                                                  3,015 mL
                                                                     35 mL
   Urine:
                                                                     15 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,223 mL
                                                                    409 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 483 (483 - 483) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 96%
   ABG: 7.38/36/128/23/-2
   Ve: 7.7 L/min
   PaO2 / FiO2: 320
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds:
   Bronchial: Left base)
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   273 K/uL
   125 mg/dL
   5.9 mg/dL
   23 mEq/L
   4.5 mEq/L
   37 mg/dL
   102 mEq/L
   139 mEq/L
   22.6 %
   7.3 K/uL
        [image002.jpg]
                            [**2131-12-24**]  03:15 AM
                            [**2131-12-24**]  04:44 AM
                            [**2131-12-24**]  09:16 AM
                            [**2131-12-24**]  12:34 PM
                            [**2131-12-24**]  05:09 PM
                            [**2131-12-24**]  10:42 PM
                            [**2131-12-25**]  04:05 AM
                            [**2131-12-25**]  04:13 AM
                            [**2131-12-25**]  06:40 PM
                            [**2131-12-26**]  04:04 AM
   WBC
   10.6
   7.9
   6.6
   7.3
   Hct
   23.4
   21.9
   25.0
   22.9
   22.6
   Plt
   [**Telephone/Fax (3) 7156**]73
   Cr
   6.3
   4.1
   4.5
   5.9
   TropT
   0.03
   TCO2
   23
   21
   26
   22
   Glucose
   101
   129
   133
   125
   Other labs: PT / PTT / INR:47.3/65.1/5.3, CK / CKMB /
   Troponin-T:21//0.03, Lactic Acid:0.9 mmol/L, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   [**Age over 90 382**] year old woman presents with dyspnea and altered mental status in
   the setting of new pneumonia. Growing moraxella. Will narrow
   antibiotics to just levofloxacin today. Extubated without incident.
   Will need follow up imaging to ensure resolution of LLL infiltrate.
   Elevated INR with no signs of bleeding. Confusion likely related to
   recent sedation in context of renal failure and advanced age. ESRD, got
   HD yesterday. Renal to decide for plans to dialyse today or [**12-28**]. Okay
   to transfer to the floor. Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: Eval for po diet today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2131-12-23**] 08:00 PM
   Tunneled (Hickman) Line - [**2131-12-23**] 08:09 PM
   Arterial Line - [**2131-12-23**] 08:30 PM
   PICC Line - [**2131-12-25**] 01:43 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes